US09428453B2
To a stirred solution of N,N′-dimethyl L-cystine (2.5 g, 9.32 mmol) in sodium bicarbonate solution (50 mL) at 0° C., was added di-tert-butyl dicarbonate (6.0 g, 27.4 mmol) in acetone (10 mL) dropwise over the course of approximately 2 hr. The reaction was stirred overnight and allowed to slowly warm to r.t. The pH of reaction mixture was adjusted to 5 using 5% sodium bisulfate solution The mixture was extracted with ethyl acetate (3×100 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography on silica gel to yield 2.3 g (51.8% yield) of N,N′-Bis(tert-butoxycarbonyl)-N,N′-dimethyl L-cystine. LC-MS (ESI+): m/z 468.9 [M+H]+.

reactant | N,N′-dimethyl L-cystine | 9.32 mmol, 2.5 g | CN[C@@H](CSSC[C@@H](C(=O)O)NC)C(=O)O | C8H16N2O4S2
reactant | di-tert-butyl dicarbonate | 27.4 mmol, 6.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium bisulfate | S([O-])(O)(=O)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | N,N′-Bis(tert-butoxycarbonyl)-N,N′-dimethyl L-cystine | 2.3 g, 51.8% yield | C(C)(C)(C)OC(=O)N([C@@H](CSSC[C@@H](C(=O)O)N(C)C(=O)OC(C)(C)C)C(=O)O)C | C18H32N2O8S2
